US07893056B2
To a solution of tris(1,1-dimethylethyl)2-[2-chloro-6-(cyclobutylamino)-5-fluoro-4-pyrimidinyl]-1,1,2-hydrazinetricarboxylate (0.495 g, 0.96 mmol) in MeOH (10 mL) was added 4M HCl in 1,4-dioxane (10 mL). The reaction was stirred at room temperature overnight, then the solvent was evaporated, and the residue was treated with a standard K2CO3 aqueous workup to provide 2-chloro-6-(cyclobutylamino)-5-fluoro-4(1H)-pyrimidinone hydrazone as a reddish brown oil (0.225 g). LCMS: (M+H)+=232.0.

reactant | tris(1,1-dimethylethyl)2-[2-chloro-6-(cyclobutylamino)-5-fluoro-4-pyrimidinyl]-1,1,2-hydrazinetricarboxylate | 0.96 mmol, 0.495 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)NC1CCC1)Cl)C(=O)OC(C)(C)C | C23H35ClFN5O6
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-chloro-6-(cyclobutylamino)-5-fluoro-4(1H)-pyrimidinone hydrazone | 0.225 g | ClC=1NC(=C(C(N1)=NN)F)NC1CCC1 | C8H11ClFN5
